US05516774
A mixture of 43.42 g of ethyl 4-aminobenzoate and 40.8 g of 2-methylbenzoyl chloride in 150 ml of dichloromethane is cooled in an ice bath and 26.56 g of triethylamine is added dropwise. After the addition, the solution is stirred at room temperature overnight. The mixture is poured into water and the organic layer separted. The organic layer is washed with water, 1N HCl, 1M NaHCO3 and dried over Na2SO4. The solvent is removed and the solid slurried with ethyl acetate and filtered to give 57 g of ethyl 4-[(2-methylbenzoyl)amino]benzoate as crystals, m.p. 110°-115° C. A mixture of 50.7 g of the preceding compound in 280 ml of ethyl alcohol and 55 ml of 10N NaOH is refluxed for 5 minutes. The mixture is cooled to room temperature, diluted with 200 ml of water and acidified with concentrated hydrochloric acid (pH 1-2). The mixture is filtered and the solid washed with water and dried to give 51 g of the desired product as white crystals, m.p. 270°-275° C.

reactant | ethyl 4-aminobenzoate | 43.42 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 2-methylbenzoyl chloride | 40.8 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 26.56 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | ethyl 4-[(2-methylbenzoyl)amino]benzoate | 57 g | CC1=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C=CC=C1 | C17H17NO3
